US06982348B2
5) (4RS,5SR)-5-(4-fluorophenyl)-4-{[6-(1,1,2,2-tetrafluoroethoxy)pyridin-2-yl]methyl}-1,3-oxazolidin-2-one
To a solution of (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-{[6-(1,1,2,2-tetrafluoroethoxy)pyridin-2-yl]methyl}propanoic acid (1.20 g, 3.07 mmol) in tetrahydrofuran (20 ml) were added diphenylphosphoryl azide (730 μl, 3.37 mmol) and triethylamine (706 μl, 5.06 mmol), and the mixture was heated under reflux for 4 hrs. The reaction solution was allowed to cool and water (100 ml) was added. The mixture was extracted with ethyl acetate (50 ml×2). The extract was washed successively with saturated aqueous sodium hydrogen carbonate, water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1-1:1) to give the objective substance (808 mg, 68%).

reactant | (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-{[6-(1,1,2,2-tetrafluoroethoxy)pyridin-2-yl]methyl}propanoic acid | 3.07 mmol, 1.20 g | FC1=CC=C(C=C1)C(C(C(=O)O)CC1=NC(=CC=C1)OC(C(F)F)(F)F)O | C17H14F5NO4
reactant | diphenylphosphoryl azide | 3.37 mmol, 730 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 5.06 mmol, 706 μl | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (4RS,5SR)-5-(4-fluorophenyl)-4-{[6-(1,1,2,2-tetrafluoroethoxy)pyridin-2-yl]methyl}-1,3-oxazolidin-2-one | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=NC(=CC=C1)OC(C(F)F)(F)F | C17H13F5N2O3
